US07442701B2
Description 76: 1-Benzyl-4,4-diethoxypiperidine
A solution of 1-benzylpiperidin-4-one (240 ml, 1.3 mol) in ethanol (500 ml) was saturated with gaseous hydrogen chloride under cooling on an ice bath. The mixture was treated with tetraethoxysilane (300 ml), kept overnight at RT, then poured with stirring into a mixture of diethyl ether (500 ml), potassium carbonate (500 g) and water (1000 ml). The organic layer was separated, the diethyl ether was evaporated and the residue was distilled under vacuum to give the title compound (369 g, 77%).

reactant | 1-benzylpiperidin-4-one | 1.3 mol, 240 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | hydrogen chloride | Cl | ClH
reactant | tetraethoxysilane | 300 ml | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | potassium carbonate | 500 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 1000 ml | O | H2O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 1-Benzyl-4,4-diethoxypiperidine | 369 g, 77% | C(C1=CC=CC=C1)N1CCC(CC1)(OCC)OCC | C16H25NO2
